US05447925
Ethyl gallate (7.92 g, commercially available, Fluka), and K2CO3 (27.6 g) in DMF (40 ml) were treated with allyl bromide (13.5 ml) as above, to give ethyl 3,4,5-triallyloxybenzoate acid (14 g): NMR (CDCl3) 1.49 (t, 3H); 4.35 (q, 2H); 4.62 (m, 6H); 5.15-5.48 (m, 6H); 6.00-6.28 (m, 3H); 7.29 (s, 1H). This crude ester was hydrolysed essentially as above to give 3,4,5-triallyloxybenzoic acid (10.4 g): NMR (CDCl3) 4.64 (m, 6H); 5.15-5.51 (m, 6H); 6.00-6.20 (m, 3H); 7.35 (s, 1H).

reactant | Ethyl gallate | C(C1=CC(O)=C(O)C(O)=C1)(=O)OCC | C9H10O5
reactant | K2CO3 | 27.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 13.5 ml | C(C=C)Br | C3H5Br
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | ethyl 3,4,5-triallyloxybenzoate | 14 g | C(C=C)OC=1C=C(C(=O)OCC)C=C(C1OCC=C)OCC=C | C18H22O5
